US04581370
1-Heptyl-2,4,5-trimethyl-1H-imidazole
Dissolve 16.0 g (0.019 mole) of 2,4,5-trimethyl-1H-imidazole hydrochloride in 125 ml dry N,N-dimethylformamide and cool to 0° C. Add 8.75 g (0.218 mole) of sodium hydride (60%), stir at 0° C. for 30 minutes and then heat reaction mixture to 100° C. for one hour. Cool to 0° C. and then add 18.0 ml (0.114 mole) of n-heptyl bromide to reaction mixture. Upon completion of addition, heat to 100° C. for four hours, following the progress of the reaction by thin-layer chromatography on silica gel (methanol:1M sodium chloride, 95:5). At the completion of the reaction, cool to room temperature and add 2 ml water. Filter precipitated salts and evaporate solvent.

reactant | 2,4,5-trimethyl-1H-imidazole hydrochloride | 0.019 mole, 16.0 g | Cl.CC=1NC(=C(N1)C)C
reactant | sodium hydride | 0.218 mole, 8.75 g | [H-].[Na+]
reactant | n-heptyl bromide | 0.114 mole, 18.0 ml | C(CCCCCC)Br | C7H15Br
reactant | water | 2 ml | O | H2O
solvent | N,N-dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 1-Heptyl-2,4,5-trimethyl-1H-imidazole | C(CCCCCC)N1C(=NC(=C1C)C)C | C13H24N2
